US08202895B2
3-Amino-3-[3-(trifluoromethyl)phenyl]propan-1-ol
With ice cooling and under argon, 10.9 ml (10.94 mmol) of borane-tetrahydrofuran complex (1M in THF) were introduced. Then 850 mg (3.65 mmol) of 3-amino-3-[3-(trifluoromethyl)phenyl]propanoic acid were added. After 5 minutes, the cooling bath was removed and the mixture was stirred at RT overnight and for 4 h at reflux. After cooling to RT, pieces of ice were added until the evolution of gas came to an end. The mixture was rendered alkaline with 1M aqueous sodium hydroxide solution, diluted with water to a volume of approximately 150 ml, and extracted three times with dichloromethane. The combined organic phases were dried over sodium sulphate, filtered and freed from the solvent on a rotary evaporator. Drying in an HV gave 744 mg (85% of theory) of the title compound in 92% purity.

reactant | borane tetrahydrofuran | 10.94 mmol, 1M, 10.9 ml | B.O1CCCC1
reactant | 3-amino-3-[3-(trifluoromethyl)phenyl]propanoic acid | 3.65 mmol, 850 mg | NC(CC(=O)O)C1=CC(=CC=C1)C(F)(F)F | C10H10F3NO2
product | 3-Amino-3-[3-(trifluoromethyl)phenyl]propan-1-ol | NC(CCO)C1=CC(=CC=C1)C(F)(F)F | C10H12F3NO
